US04788201
1-Methyl-4-ethynyl-4-(2-nitrophenoxy)piperidine hydrochloride
A suspension of 0.58 g of sodium hydride (59% in oil; washed three times with hexanes) in 15 ml of dimethylsulfoxide was heated at 80°-90° for 0.5 hour under nitrogen. The resultant solution was cooled in an ice bath and 2.0 g of 1-methyl-4-ethynyl-4-hydroxypiperidine was added. After five min, the mixture was cooled to 0° and a solution of 2.4 g of 2-fluoronitrobenzene was added dropwise. The mixture was stirred 1 hr at 0°, 3 hrs at room temperature, poured into water, extracted twice with ether, washed with saturated sodium chloride solution and dried over anhydrous potassium carbonate. Filtration followed by evaporation of the solvent provided an oil, which was treated with ethereal hydrogen chloride to yield 2.34 g (54.8%) of product.

reactant | sodium hydride | 0.58 g | [H-].[Na+]
reactant | 1-methyl-4-ethynyl-4-hydroxypiperidine | 2.0 g | CN1CCC(CC1)(O)C#C | C8H13NO
reactant | 2-fluoronitrobenzene | 2.4 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-Methyl-4-ethynyl-4-(2-nitrophenoxy)piperidine hydrochloride | 2.34 g, 54.8% | Cl.CN1CCC(CC1)(OC1=C(C=CC=C1)[N+](=O)[O-])C#C | InChI=1S/C14H16N2O3.ClH/c1-3-14(8-10-15(2)11-9-14)19-13-7-5-4-6-12(13)16(17)18;/h1,4-7H,8-11H2,2H3;1H
